US05219871
Preparation of 2,2-diphenyl-5-[N-(4-methoxyphenethyl)-N-methylamino]pentanamide
A mixture containing 2,2-diphenyl-5-methylaminopentanamide (0.29 g-see preparation 2), 4-methoxyphenethyl bromide (0.22 g), anhydrous potassium carbonate (0.5 g) and acetonitrile (30 ml) was heated under reflux for 3 hours. The mixture was partitioned between dichloromethane (50 ml) and 5% aqueous sodium carbonate (50 ml), the layers separated and the aqueous layer extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a foam, yield 0.22 g.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 0.29 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | 4-methoxyphenethyl bromide | 0.22 g | COC1=CC=C(CCBr)C=C1 | C9H11BrO
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-(4-methoxyphenethyl)-N-methylamino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(C)CCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C27H32N2O2
